US05883102
(b) 2-(2-Hydroxyethyl)benzaldehyde ethylene acetal
Borane-dimethyl sulphide complex (2.0M in THF, 7.67 ml, 15.3 mmol) was added dropwise to 2-vinylbenzaldehyde ethylene acetal (2.7 g, 15.3 mmol) in THF (80 ml) at 0° C. Stirring was continued at room temperature for 4 h, cooled to 0° C. and 10% aqueous sodium hydroxide (3 ml) added dropwise, followed by hydrogen peroxide (30% by volume, 1.8 ml). After 1 h at room temperature, the mixture was diluted with water, extracted with ethyl acetate, dried over sodium sulphate and evaporated to give a colourless viscous gum (2.2 g), MS (+EI) 194 (M+), 1H NMR (CDCl3) 7.48 (1H, d, J6 Hz), 7.3-7.1 (3H, m), 5.91 (1H, s), 4.1-3.9 (4H, m), 3.78 (2H, t, J6.5 Hz), 2.93 (2H, t, J6.5 Hz).

reactant | Borane dimethyl sulphide | 15.3 mmol, 2.0M, 7.67 ml | B.CSC
reactant | 2-vinylbenzaldehyde ethylene acetal | 15.3 mmol, 2.7 g | C1COC(C2=C(C=CC=C2)C=C)O1 | C11H12O2
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 1.8 ml | OO | H2O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-Hydroxyethyl)benzaldehyde ethylene acetal | 2.2 g | C1COC(C2=C(C=CC=C2)CCO)O1 | C11H14O3
